US08383636B2
To a suspension of 2-((5-(benzyloxymethyl)-4-chloro-5H-pyrrolo[3,2-d]pyrimidin-7-yl)methylamino)-2-(methylthiomethyl)propane-1,3-diol (9.0 mg, 0.037 mmol) and palladium-black (10 mg) in 7 M methanolic ammonia (2 mL) was added hydrazine hydrochloride (0.250 mL, 6.87 mmol) dropwise. After 1 h at ambient temperature the reaction was virtually complete by TLC (dichloromethane:7 M methanolic ammonia, 3:1, visualised with UV and Erlichs). The supernatant solution was filtered through a small pad of celite and the palladium was washed twice with methanol and also filtered through celite. The combined filtrates were concentrated under reduced pressure and the resulting residue triturated with chloroform and dichloromethane. Lyophilization of the residue gave 2-((4-amino-5H-pyrrolo[3,2-d]pyrimidin-7-yl)methylamino)-2-(methylthiomethyl)propane-1,3-diol (4 mg, 63%) as a white solid. 1H NMR (D2O) δ 8.16 (s, 1H), 7.58 (s, 1H), 4.12 (s, 2H), 3.79-3.70 (m, 4H), 2.85 (s, 2H), 2.15 (s, 3H). +ESMS Found 298.1346 (M+H+) C12H20N5O2S requires 298.1338.

reactant | 2-((5-(benzyloxymethyl)-4-chloro-5H-pyrrolo[3,2-d]pyrimidin-7-yl)methylamino)-2-(methylthiomethyl)propane-1,3-diol | 0.037 mmol, 9.0 mg | C(C1=CC=CC=C1)OCN1C=C(C=2N=CN=C(C21)Cl)CNC(CO)(CO)CSC | C20H25ClN4O3S
reactant | hydrazine hydrochloride | 6.87 mmol, 0.250 mL | Cl.NN
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | ammonia | 7 M, 2 mL | N | H3N
catalyst | palladium-black | 10 mg | [Pd] | Pd
solvent | ammonia | 7 M | N | H3N
product | 2-((4-amino-5H-pyrrolo[3,2-d]pyrimidin-7-yl)methylamino)-2-(methylthiomethyl)propane-1,3-diol | 4 mg, 63% | NC=1C2=C(N=CN1)C(=CN2)CNC(CO)(CO)CSC | C12H19N5O2S
